US08877815B2
To a solution of methyl 1-(2-chloroallyl)cyclopentanecarboxylate (1.82 g, 8.98 mmol) in MeOH (30 mL) was added 1M NaOH (26.9 mL, 26.9 mmol) at room temperature. The mixture was stirred at room temperature for 2 hour then heated at 60° C. for 24 hours. The reaction mixture was quenched with excess of aq. 1 M HCl. The mixture was extracted with EtOAc, and the organic layer was washed with water, brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by flash chromatography using 30% EtOAc/heptane to 100% EtOAc to give 1-(2-chloroallyl)cyclopentanecarboxylic acid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.43-1.82 (m, 6H), 2.04-2.28 (m, 2H), 2.69 (s, 2H), 5.08 (s, 1H), 5.17 (d, J=1.0 Hz, 1H).

reactant | methyl 1-(2-chloroallyl)cyclopentanecarboxylate | 8.98 mmol, 1.82 g | ClC(CC1(CCCC1)C(=O)OC)=C | C10H15ClO2
reactant | NaOH | 26.9 mmol, 1M, 26.9 mL | [OH-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | 1-(2-chloroallyl)cyclopentanecarboxylic acid | ClC(CC1(CCCC1)C(=O)O)=C | C9H13ClO2
